* C:\Users\boxca\Google Drive\Projects\Iridium-ADC\esim\analog frontend.asc
V3 Vcc 0 12
V1 N010 N021 SINE(0 4 1k) AC 1 Rser=50
R1 N011 bias 1Meg
R2 bias N022 1Meg
XU1 N011 N003 Vcc 0 N003 level.2 Avol=1Meg GBW=40Meg Slew=27Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=1.1n enk=30 in=1.7p ink=50 Rin=500Meg
XU2 N022 N016 Vcc 0 N016 level.2 Avol=1Meg GBW=40Meg Slew=27Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=1.1n enk=30 in=1.7p ink=50 Rin=500Meg
R7 N004 N003 510
C1 N004 0 560p
R8 N008 N004 360
R9 N005 N004 560
C2 N005 N008 220p
R10 N018 N016 510
C3 N018 0 560p
R11 N012 N018 360
C4 N013 N012 220p
R12 N013 N018 560
R13 N006 N005 200
C5 N006 0 3.3n
R14 N009 N006 160
R15 N007 N006 220
C6 N007 N009 220p
C7 N019 0 3.3n
R16 N014 N019 160
C8 N015 N014 220p
R17 N015 N019 220
R18 N019 N013 200
XU3 N017 N001 AVDD3 0 N020 N002 ocm THS4520
R19 N001 N007 1k
R20 N002 N001 655
R21 outP N002 18
C9 N001 N017 100p
C10 N002 N001 120p
R22 N017 N015 1k
R23 N020 N017 655
R24 outN N020 18
C11 N020 N017 120p
V4 ocm 0 2.048
XU4 N008 NC_01 vcc N005 N013 0 vcc N012 OPA1632
XU5 N009 NC_02 vcc N007 N015 0 vcc N014 OPA1632
V5 AVDD3 0 5
C14 N022 N021 2.2µ
C12 N011 N010 2.2µ
V2 bias 0 6
;ac dec 100 1 300Meg
.noise V(outP, outN) V1 dec 100 1 1Meg
;.tran 0 4m 0 1u
.options plotwinsize 0
* 4 volt maximum
* The THS 4520 represents \nthe ADC's built in diff amp
* 0.08 Hz
* Max pk voltage = 1.6375 = (3.685 - 0.410)/2\nEquivalent to 3.275 pk diff or 6.55 pk-pk diff
* want: 5 V pk-pk here
.lib C:\Users\boxca\Google Drive\Projects\nickel-amp\THS4520.lib
.lib OPA1632.LIB
.lib UniversalOpamps2.sub
.backanno
.end
